US06353111B1
A mixture of lithium chloride (1.7 g, 40 mmol, predried at 130° C. under high vacuum for 2 h) and copper cyanide (1.78 g, 20 mmol) in dry tetrahydrofuran (20 mL) was stirred at 25° C. under argon for 10 min to obtain a clear solution. The reaction mixture was cooled to −70° C. and then slowly treated with a 1 M solution of ethylmagnesium bromide in tetrahydrofuran (20 mL, 20 mmol). After addition, the reaction mixture was allowed to warm to −30° C. where it was stirred for 5 min. The resulting reaction mixture was again cooled back to −70° C. and then slowly treated with methyl propiolate (1.52 g, 18 mmol). The reaction mixture was stirred for 4 h at −40° C. to −30° C. and then cooled to −70° C. to −60° C., at which time, the reaction mixture was treated slowly with a solution of iodine (6.86 g, 27 mmol) in dry tetrahydrofuran (20 mL). After addition of the iodine solution, the cooling bath was removed, and the reaction mixture was allowed to warm to 25° C. where it was stirred for 1 h. The reaction mixture was then poured into a solution consisting of a saturated aqueous ammonium chloride solution (90 mL) and ammonium hydroxide (10 mL), and the organic compound was extracted into diethyl ether (3×50 mL). The combined organic extracts were successively washed with a saturated aqueous sodium thiosulfate solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 19/1 hexanes/diethyl ether) afforded (E)-2-iodo-pentenoic acid methyl ester (2.9 g, 67%) as a colorless oil: EI-HRMS m/e calcd for C6H9IO2 (M+) 239.9647, found 239.9646.

reactant | lithium chloride | 40 mmol, 1.7 g | [Cl-].[Li+]
reactant | copper cyanide | 20 mmol, 1.78 g | [Cu](C#N)C#N
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | methyl propiolate | 18 mmol, 1.52 g | C(C#C)(=O)OC | C4H4O2
reactant | iodine | 27 mmol, 6.86 g | II | I2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mmol, 20 mL | O1CCCC1 | C4H8O
product | (E)-2-iodo-pentenoic acid methyl ester | 2.9 g, 67% | COC(/C(=C\CC)/I)=O | C6H9IO2
